US07601716B2
4-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzamide
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (50 mg) was reacted with 4-carbamoylphenyl boronic acid as in General Procedure 4B to give the title compound as a white solid (24% yield). M.p.>200° C., LCMS: m/z=359.22 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 4.22 (2H, s), 5.28 (2H, s), 7.24 (1H, m), 7.33 (5H, m), 7.41 (1H, s), 7.56 (2H, d, J=8.6 Hz), 7.88 (2H, d, J=8.3 Hz), 7.96 (1H, bs), 8.04 (1H, d, J=1.8 Hz).

reactant | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 50 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
reactant | 4-carbamoylphenyl boronic acid | C(N)(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
product | 4-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzamide | 24% yield | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)C2=CC=C(C(=O)N)C=C2 | C21H18N4O2
